US09120781B2
A solution of (1S,2S,3R,4R,5R)-2-amino-3,4-bis(benzyloxy)-5-(benzyloxymethyl)cyclohexanol (1 g, 2.23 mmol) and imidazole (338 mg, 3.35 mmol) in DCM (20 mL) was treated with tert-butylchlorodimethylsilane (371 mg, 2.46 mmol) for 12 h at room temperature. The reaction was quenched by addition of satd. aqueous NaHCO3 (5 mL), and was extracted by DCM (2×10 mL). The organic layers were combined, dried over anhydrous MgSO4, and concentrated under vacuum to give a residue, which was purified by a silica gel column with 10% of MeOH in DCM to give (1R,2R,3R,4R,6S)-2,3-bis(benzyloxy)-4-(benzyloxymethyl)-6-(tertbutyldimethylsilyloxy)cyclohexanamine as a yellow oil (0.9 g, 68%). MS (ES, m/z): 562.3; 1H NMR (300 MHz, CDCl3) δ 7.24-7.37 (m, 15H), 4.80-4.95 (m, 2H), 4.55-4.71 (m, 2H), 4.40-4.51 (m, 2H), 4.05 (s, 1H), 3.62-3.67 (m, 1H), 3.44-3.50 (m, 3H), 2.43-2.46 (m, 1H), 2.15 (s, 1H), 1.82-1.85 (m, 1H), 1.52-1.59 (m, 1H), 0.92 (s, 9H), 0.11 (s, 3H), 0.08 (s, 3H).

reactant | (1S,2S,3R,4R,5R)-2-amino-3,4-bis(benzyloxy)-5-(benzyloxymethyl)cyclohexanol | 2.23 mmol, 1 g | N[C@H]1[C@H](C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)O | C28H33NO4
reactant | imidazole | 3.35 mmol, 338 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 2.46 mmol, 371 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (1R,2R,3R,4R,6S)-2,3-bis(benzyloxy)-4-(benzyloxymethyl)-6-(tertbutyldimethylsilyloxy)cyclohexanamine | 0.9 g, 68% | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](C[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)N | C34H47NO4Si
